US07335658B2
6-[4-(PYRROLIDINE-1-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use pyrrolidine-1-carbonyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (54% yield). 1H NMR (400 MHz, CDCl3) δ 8.04, 7.98, 6.99, 3.79, 3.56, 3.47-3.45, 3.40, 1.87-1.85, 1.52, 0.80-0.72, 0.48-0.46, 0.10-0.09.

reactant | pyrrolidine-1-carbonyl chloride | N1(CCCC1)C(=O)Cl | C5H8ClNO
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(PYRROLIDINE-1-CARBONYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(=O)N1CCCC1 | C19H28N6O2
